US04933355
Sodium 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetate
Following a procedure similar to that described in Example 35, the desired compound was prepared from 1 g of 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetic acid, 280 mg of sodium methoxide and 20 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetic acid | 1 g | N(C1=CC=CC=C1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C15H11N3O3S3
reactant | sodium methoxide | 280 mg | C[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Sodium 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetate | N(C1=CC=CC=C1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)[O-])=O.[Na+] | InChI=1S/C15H11N3O3S3.Na/c19-12(20)7-18-13(21)11(24-15(18)22)6-10-8-23-14(17-10)16-9-4-2-1-3-5-9;/h1-6,8H,7H2,(H,16,17)(H,19,20);/q;+1/p-1
